US07402603B2
Step 1.1A: Preparation of (2′-chloro-6′-fluorophenyl)-(4-methylphenyl)-amine
14.65 g (100 mmol) of 2-chloro-6-fluorophenol are dissolved in 50 ml of 2-propanol followed by the addition of 15.5 g (112 mmol) of potassium carbonate and 18.9 g (103 mmol) of 2-chloro-N-(4-methylphenyl)acetamide. The mixture is refluxed for 4 hours. At this time, the formation of 2-(2′-chloro-6′-fluorophenoxy)-N-(4-methylphenyl)acetamide is completed. 20 ml of sodium methylate solution 30% in methanol are slowly added. To maintain a temperature of at least 75° C., about 25 ml of solvent are distilled during the addition. The mixture is boiled 2 hours more to complete the formation of (2′-chloro-6′-fluorophenyl)-(4-methylphenyl)-amine.

reactant | 2-chloro-6-fluorophenol | 100 mmol, 14.65 g | ClC1=C(C(=CC=C1)F)O | C6H4ClFO
reactant | potassium carbonate | 112 mmol, 15.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-N-(4-methylphenyl)acetamide | 103 mmol, 18.9 g | ClCC(=O)NC1=CC=C(C=C1)C | C9H10ClNO
reactant | 2-(2′-chloro-6′-fluorophenoxy)-N-(4-methylphenyl)acetamide | ClC1=C(OCC(=O)NC2=CC=C(C=C2)C)C(=CC=C1)F | C15H13ClFNO2
reactant | sodium methylate | 20 ml | C[O-].[Na+]
solvent | 2-propanol | 50 ml | CC(C)O | C3H8O
solvent | methanol | CO | CH4O
product | (2′-chloro-6′-fluorophenyl)-(4-methylphenyl)-amine | ClC1=C(C(=CC=C1)F)NC1=CC=C(C=C1)C | C13H11ClFN
